US06420605B1
a) 6-Fluoro-2-hydroxybenzonitrile
7.8 g of 2-methoxy-6-fluorobenzonitrile and 18.0 g of pyridine hydrochloride were heated for 5 hours at 195° C. under dry nitrogen. After cooling, the batch was partitioned between 50 ml of water and 50 ml of tert-butyl methyl ether, and the organic phase was subsequently extracted with 40 ml of 2N NaOH. The alkali extract was brought to pH 5 and subsequently extracted twice with in each case 40 ml of tert-butyl methyl ether. After the solvent had been evaporated, 4.7 g of the desired product were obtained as an oil (HPLC: 93%).

reactant | 2-methoxy-6-fluorobenzonitrile | 7.8 g | COC1=C(C#N)C(=CC=C1)F | C8H6FNO
reactant | pyridine hydrochloride | 18.0 g | Cl.N1=CC=CC=C1
product | 6-Fluoro-2-hydroxybenzonitrile | 4.7 g | FC1=CC=CC(=C1C#N)O | C7H4FNO
